US07851640B2
(E)-tert-butyl 2-(2-hydroxy-4-methoxyphenylcarbonyl)-3-phenylprop-2-enoate:
Prepared according to general procedure A using tert-butyl 3-(2-hydroxy4-methoxyphenyl)-3-oxopropanoate (532 mg, 2.0 mmol), benzaldehyde (200 μL, 2.00 mmol), 12.0 mL benzene, piperidine (10 μL, 0.10 mmol) and glacial acetic acid (5.7 μL, 0.10 mmol), refluxed for 3 h. Purified via recrystallization from hexanes/CH2Cl2, yielding 321 mg (46%) of white solid. mp=105-107° C.; IR (film) 2977.5; 1712.8; 1624.0; 1155.6 cm−1; 1H NMR (500 MHz, CDCl3) δ 12.41 (bs, 1H), 7.81 (s, 1H), 7.41 (d, J=9.1 Hz, 1H), 7.37-7.25 (m, 5H), 6.46 (d, J=2.1 Hz, 1H), 6.34 (dd, J=8.8, 2.1 Hz, 1H), 3.83 (s, 3H), 1.42 (s, 9H); 13C NMR (125 MHz, CDCl3) δ 199.4, 166.8, 165.8, 164.0, 141.8, 133.6, 133.1, 131.6, 130.5, 130.3, 129.1, 114.3, 108.4, 101.1, 82.6, 55.8, 28.1; LRMS (electrospray): Mass calculated for C21H22O5 [M]+, 354.14. Found [M+23]+, 377.5.

reactant | tert-butyl 3-(2-hydroxy4-methoxyphenyl)-3-oxopropanoate | 2.0 mmol, 532 mg | OC1=C(C=CC(=C1)OC)C(CC(=O)OC(C)(C)C)=O | C14H18O5
reactant | benzaldehyde | 2.00 mmol, 200 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | piperidine | 0.10 mmol, 10 μL | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.10 mmol, 5.7 μL | C(C)(=O)O | C2H4O2
solvent | benzene | 12.0 mL | C1=CC=CC=C1 | C6H6
product | (E)-tert-butyl 2-(2-hydroxy-4-methoxyphenylcarbonyl)-3-phenylprop-2-enoate | 321 mg, 46% | OC1=C(C=CC(=C1)OC)C(=O)/C(/C(=O)OC(C)(C)C)=C\C1=CC=CC=C1 | C21H22O5
